US05900484
3-Chloro-2-[3-(trifluoromethyl)phenoxy]pyridine
7.68 g of sodium hydride dispersion (ca. 50 percent in mineral oil) was washed with pentane under nitrogen and 100 ml of N,N-dimethylformamide was then added. 21.92 g (135 mmol) of 3-(trifluoromethyl)phenol was added dropwise over 30 minutes at room temperature. The resulting phenate solution was added dropwise over 2 hours, under nitrogen, to a solution of 20.1 g (136 mmol) of 2,3-dichloropyridine in 80 ml of N,N-dimethylformamide, heated to 120° C. After 3 hours of reaction time, the mixture was cooled to room temperature, the sodium chloride which had precipitated out was filtered off and the filtrate was concentrated. The residue was extracted with toluene and 0.1 N hydrochloric acid and the organic phase was washed with saturated sodium chloride solution and concentrated. The oily residue was distilled under vacuum. The yield was 24.75 g (67 percent) of a colorless oil, content (GC): 99.7 percent. Other data concerning the product was:

reactant | 3-(trifluoromethyl)phenol | 135 mmol, 21.92 g | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
reactant | 2,3-dichloropyridine | 136 mmol, 20.1 g | ClC1=NC=CC=C1Cl | C5H3Cl2N
solvent | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 3-Chloro-2-[3-(trifluoromethyl)phenoxy]pyridine | ClC=1C(=NC=CC1)OC1=CC(=CC=C1)C(F)(F)F | C12H7ClF3NO
